US08183206B2
Argatroban+edaravone:
For the first two days, 60 mg/120 ml of argatroban was diluted with an adequate amount of a transfusion fluid and the resulting solution was intravenously infused constantly over 24 hours. For the following 5 days, 10 mg/20 ml of argatroban was diluted with an adequate amount of a transfusion fluid and the resulting solution was intravenously infused twice daily, that is, in the morning and evening, each over 3 hours; and at the same time, 30 mg/20 ml of edaravone was diluted with an adequate amount of physiological saline and the resulting solution was intravenously infused for 2 weeks twice daily, that is, in the morning and evening, each over 30 minutes.

reactant | argatroban | 120 ml | C[C@@H]1CCN([C@H](C1)C(=O)O)C(=O)[C@H](CCCNC(=N)N)NS(=O)(=O)C=2C=CC=C3C2NCC(C3)C | C23H36N6O5S
reactant | argatroban | 20 ml | C[C@@H]1CCN([C@H](C1)C(=O)O)C(=O)[C@H](CCCNC(=N)N)NS(=O)(=O)C=2C=CC=C3C2NCC(C3)C | C23H36N6O5S
reactant | edaravone | 20 ml | CC1=NN(C(=O)C1)C=2C=CC=CC2 | C10H10N2O
product | Argatroban edaravone | C[C@@H]1CCN([C@H](C1)C(=O)O)C(=O)[C@H](CCCNC(=N)N)NS(=O)(=O)C=2C=CC=C3C2NCC(C3)C.CC1=NN(C(=O)C1)C=2C=CC=CC2 | InChI=1S/C23H36N6O5S.C10H10N2O/c1-14-8-10-29(18(12-14)22(31)32)21(30)17(6-4-9-26-23(24)25)28-35(33,34)19-7-3-5-16-11-15(2)13-27-20(16)19;1-8-7-10(13)12(11-8)9-5-3-2-4-6-9/h3,5,7,14-15,17-18,27-28H,4,6,8-13H2,1-2H3,(H,31,32)(H4,24,25,26);2-6H,7H2,1H3/t14-,15?,17+,18-;/m1./s1
